US05302621
N-(1-Methyl-1-phenylethyl)-3-oxo-4-azaandrost-5-ene-17β-carboxamide
The title compound was prepared in a yield of 68% in a similar manner to that described in Example 37 by reacting 3-oxo-4-azaandrost-5-ene-17β-carboxylic acid and 1-methyl-1-phenylethylamine.

reactant | 3-oxo-4-azaandrost-5-ene-17β-carboxylic acid | O=C1NC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)O | C19H27NO3
reactant | 1-methyl-1-phenylethylamine | CC(C)(C1=CC=CC=C1)N | C9H13N
product | N-(1-Methyl-1-phenylethyl)-3-oxo-4-azaandrost-5-ene-17β-carboxamide | yield of 68% | CC(C)(C1=CC=CC=C1)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3NC(CC[C@]3(C)[C@H]1CC2)=O | C28H38N2O2
